Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[C:7]([C:4]([C:5]([H:11])([H:14])[H:15])=[O:6])([H:16])[H:17])([H:8])([H:9])[H:10],62.46092080407121
[C:6]=[N:7][H:13].[N:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],41.597427601819504
[O:1]([C:3]([C@@:2]1([H:9])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])([H:10])[H:11])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],68.691937547794
[C:1]([N:2]=[C:3]([H:9])[H:11])([H:6])([H:7])[H:8].[C:4](=[O:5])([H:10])[H:12]>>[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8],45.33095796904939
[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:5](=[C:4])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],58.25434706705421
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([O:7][C@:6]1([H:12])[C:4]([H:10])([H:11])[C:3]([H:9])=[N:5]1)[H:8],81.5426498397661
[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C:5]([H:12])([H:14])[C:4]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],32.3088388259896
[C:1]([C:2]([O:3][C:5]#[C:6][H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.941255731009996
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[c:4]1(=[O:5])[c:6]([H:12])[c:7]1[H:13]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],26.851186611588105
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C-:4]([O:5][H:14])=[C:6]=[C+:7][H:15].[O:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8],64.2683937998775
[C:1]([C:2]([C:3]([O:4][H:13])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],23.2594398393405
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O+:7]=[C:6]([O:5][C-:2]1[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])[H:15])([H:8])([H:9])[H:10],100.151144414091
[C:1]([C:2]1([C:7](=[C:6])[H:17])[C:3]([H:11])([H:12])[C:4]([H:13])([H:16])[C:5]1([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10],10.895187960150103
[C:1]([C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[N:2]#[C:3][N:4]([H:11])[H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],105.5402972312472
[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]([C:3]([O:4][H:13])([H:11])[H:12])(=[C:5]=[O:6])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],64.42553855098339
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([C:3](=[O+:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:8])([H:9])[H:10],80.71459801017829
[C:1](=[C:3]([C:2]([H:9])([H:10])[H:13])[C:4]([C:5](=[O:6])[H:14])([H:11])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,100.31904783477431
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([C:5]#[N:6])[H:11])([H:8])[H:9].[O:1]=[C:2]([H:7])[H:10],71.41938990542559
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C-:3][C:4]([C+:5]([O:6][H:14])[H:12])([H:10])[H:11])[H:13])([H:7])([H:8])[H:9],67.3205215562853
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[C:5](=[O:6])([H:10])[H:11].[N:1](=[c:2]1[c:3]([H:8])[c:4]1[H:9])[H:7],92.1898662164501
[C:1]([C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:12])[H:10])([H:7])([H:8])[H:9].[H:11][H:13]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],11.085558196490602
[C:1]([O+:2]=[C-:3][O:4][C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],36.257664973776194
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3](/[O:4][H:13])[H:11])(\[C:5]([O:6][H:16])([H:14])[H:15])[H:10]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],84.8065061600464
[C:2](=[O:3])=[C:4]([O:5][C:6](=[O:7])[H:12])[H:10].[N:1]([H:8])([H:9])[H:11]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],27.211526478202998
